US05455274
A stirred solution of 2-acetoxy-4-[5-(4-cyanophenoxy)pentyloxy]-N,N-bis(1-methylethyl)benzamide (20 g, 42.9 mmol) in 20 mL of water and 350 mL of ethanol is treated with sodium hydroxide (3.43 g, 85.8 mmol) and hydroxylamine hydrochloride (5.97 g, 85.9 mmol). After refluxing overnight, the reaction is concentrated in vacuo. The resulting material is purified by chromatography on silica gel (500 g) with 65-100% ethyl acetate/hexane followed by 30% methanol/ethyl acetate as the eluent. After concentration in vacuo, the residue is recrystallized with methanol, ethyl acetate, and hexane to afford 4-[5-[4-[amino(hydroxyimino)methyl]phenoxy]pentyloxy]-2-hydroxy-N,N-bis(1-methylethyl)benzamide as colorless crystals, mp=195°-197° C.;

reactant | 2-acetoxy-4-[5-(4-cyanophenoxy)pentyloxy]-N,N-bis(1-methylethyl)benzamide | 42.9 mmol, 20 g | C(C)(=O)OC1=C(C(=O)N(C(C)C)C(C)C)C=CC(=C1)OCCCCCOC1=CC=C(C=C1)C#N | C27H34N2O5
reactant | sodium hydroxide | 85.8 mmol, 3.43 g | [OH-].[Na+]
reactant | hydroxylamine hydrochloride | 85.9 mmol, 5.97 g | Cl.NO
solvent | water | 20 mL | O | H2O
solvent | ethanol | 350 mL | C(C)O | C2H6O
product | 4-[5-[4-[amino(hydroxyimino)methyl]phenoxy]pentyloxy]-2-hydroxy-N,N-bis(1-methylethyl)benzamide | NC(C1=CC=C(OCCCCCOC2=CC(=C(C(=O)N(C(C)C)C(C)C)C=C2)O)C=C1)=NO | C25H35N3O5
